US04626602
Preparation of 1-(2,2,3,6-tetramethyl-1-cyclohexyl)-3-hexanol
2 G (8.5 mM) of 1-(2,2,3,6-tetramethyl-1-cyclohexylidene)-1-hexen-3-ol in 20 ml of ethyl acetate were hydrogenated in the presence of 0.2 g of palladium at 5% on charcoal, in an autoclave containing a hydrogen atmosphere maintained at a pressure of 100 atm. After filtration, the mixture was concentrated and distilled by means of a bulb apparatus (bath temp.: about 130°) under reduced pressure. There were thus obtained 1.9 g (yield 95%) of a mixture containing about 80% by weight of 1-(2,2,c-3,t-6-tetramethyl-r-1-cyclohexyl)-3-hexanol and 10% of 1-(2,2,t-3,c-6-tetramethyl-r-1-cyclohexyl)-3-hexanol accompanied by minor amounts of 1-(2,2,c-3,c-6-tetramethyl-r-1-cyclohexyl)-3-hexanol and 1-(2,2,t-3,t-6-tetramethyl-r-1-cyclohexyl)-3-hexanol.

reactant | 1-(2,2,3,6-tetramethyl-1-cyclohexylidene)-1-hexen-3-ol | 8.5 mM | CC1(C(C(CCC1C)C)=C=CC(CCC)O)C | C16H28O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 0.2 g | [Pd] | Pd
product | 1-(2,2,3,6-tetramethyl-1-cyclohexyl)-3-hexanol | 1.9 g, yield 95% | CC1(C(C(CCC1C)C)CCC(CCC)O)C | C16H32O
